US05977101
Preparation of 4-[2-[[[1-[(Benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetic acid
A mixture of benzyl 4-[2-[[[1-[(benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetate (0.08 g, 0.18 mmol) and 5% Pd/C (0.11 g) in MeOH (15 m L) was shaken on a Parr apparatus under H2 (41 psi) for 1 h. The mixture was filtered through a bed of Celite®, and the filter pad was washed with glacial AcOH and MeOH. The filtrate was concentrated to give the crude product (0.07 g). Preparative HPLC (Hamilton PRP-1® column, step gradient, 10-30% CH3CN/H2O-0.1% TFA) afforded the title compound: MS (ES) m/e 484.2 [M+H]+. Anal. Calcd for C27H25N5O4.3 C2HF3O2 : C, 48.01; H, 3.42 N, 8.48. Found: C, 48.40; H, 3.72; N, 8.77.

reactant | benzyl 4-[2-[[[1-[(benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetate | 0.18 mmol, 0.08 g | N1=C(NC2=C1C=CC=C2)CN2C(=NC1=C2C=CC=C1)CN(CC(=O)C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1)C | C34H31N5O4
reactant | CH3CN H2O | CC#N.O
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 0.11 g | [Pd] | Pd
product | 4-[2-[[[1-[(Benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetic acid | N1=C(NC2=C1C=CC=C2)CN2C(=NC1=C2C=CC=C1)CN(CC(=O)C1=CC=C(OCC(=O)O)C=C1)C | C27H25N5O4
